US09289430B2
3-(3-(4-chloro-2-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-ylcarbamoyl)-phenylcarbamoyl)benzylthio)propanoic acid
Into a 50-mL round bottom flask, was placed a solution of tert-butyl 3-(3-(4-chloro-2-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate (150 mg, 0.23 mmol, 1.00 equiv) in dichloromethane (4 mL), trifluoroacetic acid (2 mL). The resulting solution was stirred for 2 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product (100 mg) was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 48.9 mg (36%) of a white solid. 1H-NMR (300 MHz, DMSO, ppm): δ 12.21(s, 1H), 11.73(s, 1H), 11.56(s, 1H), 8.68(m, 1H), 8.49(m, 1H), 8.10(m, 3H), 7.92(s, 1H), 7.73(m, 7H), 7.01(d, J=3 Hz, 1H), 3.86(s, 2H), 2.59(m, 2H). MS (ES, m/z): 625 [M+Na]+.

reactant | tert-butyl 3-(3-(4-chloro-2-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-ylcarbamoyl)phenylcarbamoyl)benzylthio)propanoate | 0.23 mmol, 150 mg, 1.00 equiv | ClC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)OC(C)(C)C)C=CC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C32H30ClF3N4O4S
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(3-(4-chloro-2-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-ylcarbamoyl)-phenylcarbamoyl)benzylthio)propanoic acid | 48.9 mg, 36% | ClC1=CC(=C(C=C1)NC(=O)C=1C=C(CSCCC(=O)O)C=CC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C28H22ClF3N4O4S
